US06350907B1
According to the method of Example 25(a), (2R)-N-[(1S)-1-(carboxy)-2,2-dimethylpropyl]-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-5-[(3′-methoxy-2-methylbiphen-4-yl)propyl]pentanamide (Preparation 34)(150 mg, 0.28 mmol) was reacted with (R)-1-phenylethylamine (35 μl , 0.28 mmol) at room temperature for 2.5 h. The mixture was poured into ethyl acetate (75 mL) and washed with 0.5M aqueous sodium dihydrogenphosphate (2×50 mL) and 5% aqueous sodium bicarbonate (50 mL) (solid sodium chloride was added to give phase separation). The organic solution was dried (Na2SO4) and concentrated under reduced pressure. The residual oil was purified by flash chromatography (eluting with hexane:ethyl acetate=35:65) to give (2R)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-N-[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]-5-[(3′-methoxy-2-methylbiphen-4-yl)propyl]pentanamide as a white solid (133 mg, 76%).

reactant | (2R)-N-[(1S)-1-(carboxy)-2,2-dimethylpropyl]-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-5-[(3′-methoxy-2-methylbiphen-4-yl)propyl]pentanamide | 0.28 mmol, 150 mg | C(=O)(O)[C@H](C(C)(C)C)NC([C@H](CCCCCCC1=CC=C(C(=C1)C)C1=CC(=CC=C1)OC)[C@@H]1OC(OC1=O)(C)C)=O | C33H45NO7
reactant | (R)-1-phenylethylamine | 0.28 mmol, 35 μl | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | (2R)-2-[(4S)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]-N-[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]-5-[(3′-methoxy-2-methylbiphen-4-yl)propyl]pentanamide | 133 mg, 76% | CC1(OC([C@@H](O1)[C@H](C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@H](C)C1=CC=CC=C1)CCCCCCC1=CC=C(C(=C1)C)C1=CC(=CC=C1)OC)=O)C | C41H54N2O6
